Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with PMH significant for asthma, HTN, CAD s/p PCI to LCX 
and RCA in ___, recent STEMI (medically managed), cerebral 
calcifications of cystercercosis presenting with abdominal pain 
and nausea/vomiting.  The patients
daughter accompanied her to the ED and said that she began 
having poorly characterized abdominal pain around ___ the night 
prior to admission (___).  Approximately 2 hours later, the 
patient began vomiting up thick, black material.  She was 
discharged on ___ after being medically treated for an anterior 
STEMI with Warfarin and Plavix (metoprolol was increased and 
lisinopril was started during that hospitalization).  Her last 
bowel movement
was ___, and the patient has not had a bowel movement or passed 
gas prior to presentation to the ED.  She has never experienced 
anything like this before.  She denied any CP, palpitations, 
SOB, fevers/chills, headaches, or lightheadedness.

In the ED, her abdominal pain began to improve and she was 
hungry.  She was able to ambulate to the bathroom and had a 
non-bloody BM.

In the ED:

Initial vital signs were notable for: T97.8, BP 132/65, HR 76, 
RR 16, Pox 99% RA

Exam notable for: euvolemic, abdomen firm, distended, diffuse 
tenderness, no rebound or guarding, hypoactive bowel sounds 
Labs were notable for: TnT 1.27 --> 1.19; INR 2.7, Lactate 1.7,
ALT 41; AST 42; Hgb 12.2, Hct 34.9

Upon arrival to the floor, pt appeared anxious that she was by 
herself and wanted to make sure her son knows where she is.  
History was obtained via a ___ interpreter.  She is not 
having any abdominal pain, nausea or vomiting.  She has not 
vomited since she was at home and said the vomitus was "dark," 
but did not note any blood. She denies any CP, headaches,
lightheadedness, or SOB. She said "I'm perfect."

REVIEW OF SYSTEMS:
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
- Asthma: diagnosed at age ___, but reports since moving to ___ 
___ years ago has had asthma symptoms; hard to interpret PFTs as 
she was unable to participate in the exam; 5 lifetime 
hospitalizations, most recently ___ for COPD exacerbation; 
no history of intubations or MICU admissions 
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
Admission Physical Exam
========================
VITALS: T98.2, BP 109/55, HR 63, RR20, Pox 96% RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
dry mucous membranes.
NECK: No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Mildly hypoactive bowel sounds, distended abdomen,
non-tender to deep palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash. Bilateral ___ chronic
hyperpigmented areas
NEUROLOGIC: CN2-12 intact. Moving all extremities. Normal
sensation. AAO to person only.

Discharge Physical Exam
========================
Temp: 97.6 PO BP: 118/62 HR: 56 RR: 18 O2 sat: 98%
O2 delivery: Ra Discharge weight: 117 lbs
GENERAL: NAD, lying comfortably in bed
CV: RRR, no g/m/r 
PULM: CTAB, No wheezes, rhonchi or rales. No increased work of 
breathing.
GI: Mildly protuberant abd, non-tender, bowel sounds present, no
rebound/guardingguarding
EXTREMITIES: no cyanosis, clubbing, or edema
SKIN: Warm. Cap refill <2s. No rash. Bilateral ___ chronic
hyperpigmented areas

 
Pertinent Results:
Admission Labs:
===============
___ 06:07AM BLOOD WBC-5.7 RBC-4.10 Hgb-12.7 Hct-37.5 MCV-92 
MCH-31.0 MCHC-33.9 RDW-13.4 RDWSD-44.2 Plt ___
___ 06:07AM BLOOD ___ PTT-41.1* ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD Glucose-121* UreaN-22* Creat-1.2* Na-131* 
K-5.1 Cl-99 HCO3-17* AnGap-15
___ 06:07AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.2

Discharge Labs:
===============

___ 08:02AM BLOOD WBC-4.1 RBC-3.84* Hgb-12.1 Hct-35.1 
MCV-91 MCH-31.5 MCHC-34.5 RDW-13.3 RDWSD-44.2 Plt ___
___ 08:02AM BLOOD Plt ___
___ 08:02AM BLOOD ___ PTT-35.3 ___
___ 08:02AM BLOOD Glucose-107* UreaN-24* Creat-1.1 Na-133* 
K-5.1 Cl-98 HCO3-21* AnGap-14

Pertinent Imaging:
==================
___ CXR
FINDINGS:  
The lungs are clear.  The pulmonary vasculature is unremarkable. 
 No pleural 
abnormalities.  Moderate cardiomegaly is noted.  Otherwise the 
mediastinal 
contour is unremarkable.  No acute osseous abnormalities. 
IMPRESSION:  
No acute cardiopulmonary process. 

___ CT Abd/Pelvis
Impression:
1.  No acute process within the abdomen or pelvis.  
Specifically, no bowel 
obstruction or perforation. 
2.  Cholelithiasis without cholecystitis. 
3.  Small-sized hiatal hernia. 
4. 3.2 cm left adnexal simple cyst. Pelvic ultrasound can be 
performed for 
confirmation only if clinically indicated. 

 
Brief Hospital Course:
___ year old F PMHx asthma, HTN, CAD/PCI ___ and recent STEMI 
managed medically (discharged ___ on Plavix/warfarin, cerebral 
calcifications from cystercercosis, who presented to the ED on 
___ with abdominal pain, nausea, and vomiting of thick 
black/brown material, with subsequent resolution of symptoms. 

ACUTE MEDICAL ISSUES
# Nausea/Vomiting
Shortly after prior discharge for STEMI on ___, at which time 
plavix and warfarin were started for medical management, 
patient had one episode of emesis without frank red blood. 
Emesis was "coffee brown" with a thick consistency. She had one 
further episode of emesis while hospitalized described as dark 
by RN but no obvious evidence of blood or coffee grounds and 
occurred after having meatballs with sauce for dinner the night 
before. Hemoglobin remained stable, so low suspicion for 
significant bleeding.  Patient tolerating PO on discharge.  

# Supra-therapeutic INR
Coumadin was held for two days (___) while supratherapeutic 
INR was trended. The patient had no more emesis, no bloody 
stools, no black tarry stools. She denied any chest pain or 
shortness of breath. IRN at discharge 1.6. Coumadin dose at 
discharge 0.5mg daily down from 2.5mg before admission.    Will 
need continued close titration. 

CHRONIC ISSUES
# HTN
Pts Imdur was initially held for one day in the setting of 
questionable upper GI bleed. It was subsequently restarted. Her 
metoprolol, lisinopril and plavix were all continued at their 
pre-hospitalization doses. 

# Insomnia
Continued Mirtazapine 15 mg po qhs

# PVD with peripheral neuropathy
Continued Gabapentin 300mg po qhs

# COPD/Asthma
Continued home medications 

# Thrombocytopenia
Stable, no change from recent discharge. Plts at discharge 155.

TRANSITIONAL ISSUES: 
====================
- Please continue warfarin and Plavix on discharge.  
- Anticoagulation plan: Continue Warfarin 0.5mg for now with 
frequent checks and titration; next check INR on ___ by home 
___ to be faxed to primary care Dr. ___ ___ 
- Consider repeating TTE in 3 months for evaluation of left 
ventricular thrombus and transitioning to dual anti-platelet 
therapy with aspirin and Plavix only if echo is without 
akinetic apex.
- Weight on discharge: 117 lbs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Gabapentin 300 mg PO QHS 
3. Ipratropium-Albuterol Neb 1 NEB NEB TID 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
5. Metoprolol Succinate XL 100 mg PO DAILY 
6. Mirtazapine 15 mg PO QHS 
7. Clopidogrel 75 mg PO DAILY 
8. Lisinopril 5 mg PO DAILY 
9. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
10. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 
11. Budesonide 1 mg/2 mL inhalation TID 
12. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
13. carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID 
14. Docusate Sodium 100 mg PO BID 
15. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
16. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
17. Warfarin 2.5 mg PO DAILY16 

 
Discharge Medications:
1.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Warfarin 0.5 mg PO DAILY16 
RX *warfarin 1 mg 0.5 (One half) tablet(s) by mouth daily Disp 
#*15 Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
4.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
5.  Atorvastatin 80 mg PO QPM  
6.  Budesonide 1 mg/2 mL inhalation TID  
7.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
8.  carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID  
9.  Clopidogrel 75 mg PO DAILY  
10.  Docusate Sodium 100 mg PO BID  
11.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
12.  Gabapentin 300 mg PO QHS  
13.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
14.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
15.  Lisinopril 5 mg PO DAILY  
16.  Mirtazapine 15 mg PO QHS  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Supra-therapeutic INR
Recent STEMI
Heart Failure with Reduced Ejection Fraction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

WHY WAS I IN THE HOSPITAL?
 You were admitted to the hospital because you vomited dark 
material.

WHAT HAPPENED TO ME IN THE HOSPITAL?
 Your blood counts were monitored.  You did not obviously 
appear like you were bleeding.  
 When we felt that it was safe to restart your Coumadin and so 
we gave you a lower dose than you were taking before.
 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
You should take your Coumadin at your new dose of 0.5mg daily. 
 
 You should follow up with your primary care provider as 
scheduled.
 Weigh yourself every morning, call your primary doctor if 
weight goes up more than 3 lbs.

We wish you the best! 

 
Followup Instructions:
___